US06734179B2
To a suspension of 0.05 g (0.12 mMol) morpholine-4-carboxylic acid (4-methoxy-7-piperidin-4-yl-benzothiazol-2-yl)-amide hydrochloride (1:1) in 3 ml THF were added 0.019 ml triethyl amine. At 0° C. 0.011 ml (0.13 mMol) chloro formic acid methyl ester was added dropwise and stirred for 1 h. Then a mixture of 5 ml sat. aqueous sodium bicarbonate and 10 ml water were added. This was extracted three times with 15 ml ethyl acetate, the combined organic phase were dried over sodium sulfate and evaporated to dryness in vacuo. One obtained 0.037 g (70%) 4-{4-methoxy-2-[(morpholine-4-carbonyl)-amino]-benzothiazol-7-yl}-piperidine-1-carboxylic acid methyl ester as a white solid. F.p.: 179-185° C.

reactant | morpholine-4-carboxylic acid (4-methoxy-7-piperidin-4-yl-benzothiazol-2-yl)-amide hydrochloride | 0.12 mMol, 0.05 g | Cl.COC1=CC=C(C2=C1N=C(S2)NC(=O)N2CCOCC2)C2CCNCC2
reactant | triethyl amine | 0.019 ml | C(C)N(CC)CC | C6H15N
reactant | chloro formic acid methyl ester | 0.13 mMol, 0.011 ml | COC(=O)Cl | C2H3ClO2
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 4-{4-methoxy-2-[(morpholine-4-carbonyl)-amino]-benzothiazol-7-yl}-piperidine-1-carboxylic acid methyl ester | 0.037 g, 70% | COC(=O)N1CCC(CC1)C1=CC=C(C=2N=C(SC21)NC(=O)N2CCOCC2)OC | C20H26N4O5S
